US07179823B1
Sodium hydride (60%, oily, 190 mg) was added to a solution of 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolecarbaldehyde (1.05 g) and ethyl diethylphosphonoacetate (1.05 g) in N,N-dimethylformamide (50 ml) at 0° C., and the mixture was stirred at 0° C. for 2 hours. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration to obtain ethyl(E)-3-[1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolyl]propenoate. The crystals were dissolved in ethanol (80 ml), and hydrogenated on 5% palladium-carbon (800 mg) at room temperature under a normal pressure. The catalyst was filtered, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolyl]propionate (1.05 g, yield: 86%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume 5 ratio).

reactant | Sodium hydride | 190 mg | [H-].[Na+]
reactant | 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolecarbaldehyde | 1.05 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1C=C(C(=C1)C1=CC=CC=C1)C=O | C28H23N3O3
reactant | ethyl diethylphosphonoacetate | 1.05 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl(E)-3-[1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-4-phenyl-3-pyrrolyl]propenoate | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1C=C(C(=C1)C1=CC=CC=C1)/C=C/C(=O)OCC | C32H29N3O4
